US07358375B2
First, 1 g (2 mmol) of tris(4-bromophenyl)amine (Aldrich) was dissolved in 100 ml of toluene, and then 2.9 ml (4.5 eq.) of 2-tributylstannylthiophene and 27 mg (1.1%) of Pd(PPh3)4 were added thereto. The mixture was refluxed under a nitrogen atmosphere for 12 hours. The reaction mixture was allowed to cool to room temperature, washed with brine twice, and dried over MgSO4. After the solvent was evaporated, the obtained residue was washed with petroleum ether (PE), and dried, affording 0.87 g (yield: 85%) of tris[4-(2-thienyl)phenyl]amine as a pale yellow solid.

reactant | tris(4-bromophenyl)amine | 2 mmol, 1 g | BrC1=CC=C(C=C1)N(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br | C18H12Br3N
reactant | 2-tributylstannylthiophene | 2.9 ml, 4.5 eq. | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 27 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tris[4-(2-thienyl)phenyl]amine | 0.87 g, yield: 85% | S1C(=CC=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C=1SC=CC1)C1=CC=C(C=C1)C=1SC=CC1 | C30H21NS3
